US06933304B2
Methyl 5-[(tert-butoxycarbonyl)(pyridin-2-yl)amino]pentanoate
To a mixture of methyl 5-(pyridin-2-ylamino)pentanoate (300 mg, 1.44 mmol) in methylene chloride (10 mL) was added DMAP (17.6 mg, 0.144 mmol) and di-tert-butyl dicarbonate (1.57 g, 7.2 mmol). The mixture was stirred at room temperature overnight. The reaction was diluted with water and the organic layer separated, dried (MgSO4), and concentrated. The residue was purified by flash chromatography 1:2 (ethyl acetate:hexane) to obtain 213 mg (48%) of the product as a colorless oil. 1H NMR (CDCl3) 8.36-8.34 (m, 1H), 7.65-7.55 (m, 2H), 7.02-6.98 (m, 1H), 3.97-3.92 (m, 2H), 3.65 (s, 3H), 2.36-2.30 (m, 2H), 1.67-1.62 (m, 4H), 1.51 (s, 9H).

reactant | methyl 5-(pyridin-2-ylamino)pentanoate | 1.44 mmol, 300 mg | N1=C(C=CC=C1)NCCCCC(=O)OC | C11H16N2O2
reactant | di-tert-butyl dicarbonate | 7.2 mmol, 1.57 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.144 mmol, 17.6 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | Methyl 5-[(tert-butoxycarbonyl)(pyridin-2-yl)amino]pentanoate | 213 mg, 48% | C(C)(C)(C)OC(=O)N(CCCCC(=O)OC)C1=NC=CC=C1 | C16H24N2O4
